US08309725B2
Preparation of methyl{(4aRS,8SR,8aRS)-1-[2-(3,4-dichlorophenyl)acetyl]-8-(pyrrolidin-1-yl)-perhydroquinoxalin-4-yl}carboxylate
2-(3,4-Dichlorophenyl)-1-[(4aRS,8SR,8aRS)-8-(pyrrolidin-1-yl)-perhydroquinoxalin-1-yl]-ethan-1-one (100.9 mg, 0.25 mmol) was dissolved in absolute CH2Cl2 (13 ml) under a nitrogen atmosphere and methyl chloroformate (28.9 mg, 0.31 mmol) was added dropwise. The solution was stirred at room temperature for 2 hours. Thereafter, the mixture was evaporated in vacuo and the residue was purified by flash chromatography (Ø 2 cm, CH2Cl2/MeOH/NH3 9.5:0.5:0.05, l=16 cm, V=5 ml) and was obtained as a yellow resin.

reactant | 2-(3,4-Dichlorophenyl)-1-[(4aRS,8SR,8aRS)-8-(pyrrolidin-1-yl)-perhydroquinoxalin-1-yl]-ethan-1-one | 0.25 mmol, 100.9 mg | ClC=1C=C(C=CC1Cl)CC(=O)N1CCNC2CCCC(C12)N1CCCC1 | C20H27Cl2N3O
reactant | methyl chloroformate | 0.31 mmol, 28.9 mg | ClC(=O)OC | C2H3ClO2
solvent | CH2Cl2 | 13 ml | C(Cl)Cl | CH2Cl2
product | methyl{(4aRS,8SR,8aRS)-1-[2-(3,4-dichlorophenyl)acetyl]-8-(pyrrolidin-1-yl)-perhydroquinoxalin-4-yl}carboxylate | COC(=O)N1CCN(C2C(CCCC12)N1CCCC1)C(CC1=CC(=C(C=C1)Cl)Cl)=O | C22H29Cl2N3O3
